US06677368B2
To the suspension of 4-(4-trifluoromethoxy-phenyl)-1H-indole (4.93 g, 17.78 mmol) in t-BuOH-ethanol-acetic acid (3:2:1) (261 mL) was added pyridinium tribromide (17.06 g, 53.34 mmol)) portionwise. The mixture was stirred at 27° C. for 3 hours, and then to the mixture was added acetic acid (105 mL). Zinc dust was added to the reaction mixture portionwise until the color changed from deep red to light yellow, and the reaction mixture was stirred at room temperature for one hour. The unreacted zinc dust was filtered off and washed with ethanol. The filtrate was concentrated, and the syrupy residue was dissolved in ethyl acetate, which was washed with water, 0.5 N HCl, sat. NaHCO3 and brine, and dried over Na2SO4. After filtration and evaporation, the crude product was triturated with diethyl ether to provide product 4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one (2.05 g, 39%) as a tan solid.

reactant | 4-(4-trifluoromethoxy-phenyl)-1H-indole | 17.78 mmol, 4.93 g | FC(OC1=CC=C(C=C1)C1=C2C=CNC2=CC=C1)(F)F | C15H10F3NO
reactant | pyridinium tribromide | 53.34 mmol, 17.06 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 105 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH ethanol acetic acid | 261 mL | CC(C)(C)O.C(C)O.C(C)(=O)O
catalyst | Zinc | [Zn] | Zn
product | 4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one | 2.05 g, 39% | FC(OC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O)(F)F | C15H10F3NO2
